* NGSPICE file created from Current_limit.ext - technology: gf180mcuD

.subckt M1 a_500_n131# a_n500_n339# w_n886_n560# a_n620_n131# VSUBS
X0 a_500_n131# a_n500_n339# a_n620_n131# w_n886_n560# pfet_03v3 ad=0.3p pd=2.2u as=0.3p ps=2.2u w=0.5u l=5u
C0 a_500_n131# a_n500_n339# 0.0502f
C1 a_500_n131# a_n620_n131# 0.60702f
C2 w_n886_n560# a_n500_n339# 2.19386f
C3 w_n886_n560# a_n620_n131# 0.31737f
C4 a_n620_n131# a_n500_n339# 0.23019f
C5 w_n886_n560# a_500_n131# 0.93149f
C6 a_500_n131# VSUBS 0.03729f
C7 a_n620_n131# VSUBS 0.03729f
C8 a_n500_n339# VSUBS 0.13047f
C9 w_n886_n560# VSUBS 7.25551f
.ends

.subckt M1$1 a_500_n131# a_n830_n504# a_n500_n339# a_n620_n131#
X0 a_500_n131# a_n500_n339# a_n620_n131# a_n830_n504# nfet_03v3 ad=0.3p pd=2.2u as=0.3p ps=2.2u w=0.5u l=5u
C0 a_n500_n339# a_n620_n131# 0.23019f
C1 a_n500_n339# a_500_n131# 0.0502f
C2 a_500_n131# a_n620_n131# 0.60702f
C3 a_500_n131# a_n830_n504# 0.96878f
C4 a_n620_n131# a_n830_n504# 0.35466f
C5 a_n500_n339# a_n830_n504# 2.32433f
.ends

.subckt M0 a_500_n131# a_n500_n339# w_n886_n560# a_n620_n131# VSUBS
X0 a_500_n131# a_n500_n339# a_n620_n131# w_n886_n560# pfet_03v3 ad=0.3p pd=2.2u as=0.3p ps=2.2u w=0.5u l=5u
C0 a_500_n131# a_n500_n339# 0.0502f
C1 a_500_n131# a_n620_n131# 0.60702f
C2 w_n886_n560# a_n500_n339# 2.19386f
C3 w_n886_n560# a_n620_n131# 0.31737f
C4 a_n620_n131# a_n500_n339# 0.23019f
C5 w_n886_n560# a_500_n131# 0.93149f
C6 a_500_n131# VSUBS 0.03729f
C7 a_n620_n131# VSUBS 0.03729f
C8 a_n500_n339# VSUBS 0.13047f
C9 w_n886_n560# VSUBS 7.25551f
.ends

.subckt Current_limit i_SUM ifwd avdd avss
XM1_0 ifwd ifwd avdd M0_0/a_500_n131# avss M1
XM1$1_0 avss avss avss avss M1$1
XM0_0 M0_0/a_500_n131# M0_0/a_500_n131# avdd i_SUM avss M0
R0 avss.n67 avss.n7 22150
R1 avss.n67 avss.n66 5834.9
R2 avss.n68 avss.n67 5307.43
R3 avss.n66 avss.n8 145.635
R4 avss.n69 avss.n68 145.635
R5 avss.n32 avss.n30 99.5792
R6 avss.n33 avss.n32 99.5792
R7 avss.n33 avss.n18 99.5792
R8 avss.n44 avss.n18 99.5792
R9 avss.n44 avss.n5 99.5792
R10 avss.n69 avss.n5 99.5792
R11 avss.n65 avss.n9 64.7505
R12 avss.n6 avss.n4 64.7505
R13 avss.n65 avss.n10 64.7505
R14 avss.n70 avss.n4 64.7505
R15 avss.n30 avss.n7 59.1254
R16 avss.n8 avss.n7 40.4543
R17 avss avss.n73 16.8773
R18 avss.n29 avss.n9 15.5561
R19 avss.n29 avss.n25 15.5561
R20 avss.n34 avss.n25 15.5561
R21 avss.n34 avss.n19 15.5561
R22 avss.n43 avss.n19 15.5561
R23 avss.n43 avss.n20 15.5561
R24 avss.n20 avss.n6 15.5561
R25 avss.n13 avss.n10 15.5561
R26 avss.n31 avss.n13 15.5561
R27 avss.n31 avss.n16 15.5561
R28 avss.n17 avss.n16 15.5561
R29 avss.n45 avss.n17 15.5561
R30 avss.n45 avss.n3 15.5561
R31 avss.n70 avss.n3 15.5561
R32 avss.n51 avss.n50 12.2015
R33 avss.n50 avss.n49 9.8285
R34 avss.n26 avss.n9 5.2005
R35 avss.n9 avss.n8 5.2005
R36 avss.n29 avss.n28 5.2005
R37 avss.n30 avss.n29 5.2005
R38 avss.n25 avss.n24 5.2005
R39 avss.n32 avss.n25 5.2005
R40 avss.n35 avss.n34 5.2005
R41 avss.n34 avss.n33 5.2005
R42 avss.n21 avss.n19 5.2005
R43 avss.n19 avss.n18 5.2005
R44 avss.n43 avss.n42 5.2005
R45 avss.n44 avss.n43 5.2005
R46 avss.n22 avss.n20 5.2005
R47 avss.n20 avss.n5 5.2005
R48 avss.n38 avss.n6 5.2005
R49 avss.n69 avss.n6 5.2005
R50 avss.n71 avss.n70 5.2005
R51 avss.n70 avss.n69 5.2005
R52 avss.n3 avss.n2 5.2005
R53 avss.n5 avss.n3 5.2005
R54 avss.n46 avss.n45 5.2005
R55 avss.n45 avss.n44 5.2005
R56 avss.n55 avss.n17 5.2005
R57 avss.n18 avss.n17 5.2005
R58 avss.n57 avss.n16 5.2005
R59 avss.n33 avss.n16 5.2005
R60 avss.n31 avss.n14 5.2005
R61 avss.n32 avss.n31 5.2005
R62 avss.n61 avss.n13 5.2005
R63 avss.n30 avss.n13 5.2005
R64 avss.n62 avss.n10 5.2005
R65 avss.n10 avss.n8 5.2005
R66 avss.n39 avss.n0 5.16141
R67 avss.n64 avss.n11 5.16141
R68 avss.n64 avss.n63 5.13485
R69 avss.n73 avss.n0 5.12001
R70 avss.n49 avss.n12 4.85463
R71 avss.n48 avss.n47 4.62619
R72 avss.n49 avss.n48 4.60145
R73 avss.n40 avss.n22 4.5005
R74 avss.n42 avss.n41 4.5005
R75 avss.n37 avss.n21 4.5005
R76 avss.n36 avss.n35 4.5005
R77 avss.n24 avss.n23 4.5005
R78 avss.n28 avss.n27 4.5005
R79 avss.n26 avss.n11 4.5005
R80 avss.n39 avss.n38 4.5005
R81 avss.n61 avss.n60 4.5005
R82 avss.n59 avss.n14 4.5005
R83 avss.n58 avss.n57 4.5005
R84 avss.n56 avss.n15 4.5005
R85 avss.n55 avss.n54 4.5005
R86 avss.n53 avss.n46 4.5005
R87 avss.n2 avss.n1 4.5005
R88 avss.n72 avss.n71 4.5005
R89 avss.n63 avss.n62 4.5005
R90 avss.n4 avss.n0 0.743357
R91 avss.n68 avss.n4 0.743357
R92 avss.n65 avss.n64 0.743357
R93 avss.n66 avss.n65 0.743357
R94 avss.n62 avss.n61 0.1445
R95 avss.n61 avss.n14 0.1445
R96 avss.n57 avss.n14 0.1445
R97 avss.n55 avss.n46 0.1445
R98 avss.n46 avss.n2 0.1445
R99 avss.n71 avss.n2 0.1445
R100 avss.n28 avss.n26 0.1445
R101 avss.n28 avss.n24 0.1445
R102 avss.n35 avss.n24 0.1445
R103 avss.n35 avss.n21 0.1445
R104 avss.n42 avss.n21 0.1445
R105 avss.n42 avss.n22 0.1445
R106 avss.n38 avss.n22 0.1445
R107 avss.n27 avss.n11 0.1445
R108 avss.n27 avss.n23 0.1445
R109 avss.n36 avss.n23 0.1445
R110 avss.n37 avss.n36 0.1445
R111 avss.n41 avss.n37 0.1445
R112 avss.n41 avss.n40 0.1445
R113 avss.n40 avss.n39 0.1445
R114 avss.n57 avss.n56 0.0669737
R115 avss.n56 avss.n55 0.0669737
R116 avss.n51 avss.n48 0.0577854
R117 avss.n52 avss.n51 0.0545
R118 avss.n60 avss.n59 0.0521129
R119 avss.n59 avss.n58 0.0521129
R120 avss.n54 avss.n53 0.0521129
R121 avss.n72 avss.n1 0.0521129
R122 avss.n60 avss.n12 0.0508226
R123 avss.n58 avss.n15 0.0263065
R124 avss.n54 avss.n15 0.0263065
R125 avss.n53 avss.n52 0.0263065
R126 avss.n52 avss.n1 0.0263065
R127 avss.n73 avss.n72 0.0153387
R128 avss.n63 avss.n12 0.00179032
R129 avdd.n33 avdd.n23 142.857
R130 avdd.n33 avdd.n17 142.857
R131 avdd.n41 avdd.n17 142.857
R132 avdd.n41 avdd.n11 142.857
R133 avdd.n49 avdd.n11 142.857
R134 avdd.n49 avdd.n5 142.857
R135 avdd.n121 avdd.n5 142.857
R136 avdd.n87 avdd.n77 142.857
R137 avdd.n87 avdd.n71 142.857
R138 avdd.n95 avdd.n71 142.857
R139 avdd.n95 avdd.n65 142.857
R140 avdd.n103 avdd.n65 142.857
R141 avdd.n103 avdd.n59 142.857
R142 avdd.n111 avdd.n59 142.857
R143 avdd.n120 avdd.n4 58.2755
R144 avdd.n27 avdd.n24 58.2755
R145 avdd.n110 avdd.n58 58.2755
R146 avdd.n81 avdd.n78 58.2755
R147 avdd.n122 avdd.n4 44.5622
R148 avdd.n27 avdd.n26 44.5622
R149 avdd.n112 avdd.n58 44.5622
R150 avdd.n81 avdd.n80 44.5622
R151 avdd avdd.n126 20.2273
R152 avdd.n34 avdd.n22 14.0005
R153 avdd.n34 avdd.n18 14.0005
R154 avdd.n40 avdd.n18 14.0005
R155 avdd.n40 avdd.n10 14.0005
R156 avdd.n50 avdd.n10 14.0005
R157 avdd.n50 avdd.n6 14.0005
R158 avdd.n120 avdd.n6 14.0005
R159 avdd.n32 avdd.n24 14.0005
R160 avdd.n32 avdd.n16 14.0005
R161 avdd.n42 avdd.n16 14.0005
R162 avdd.n42 avdd.n12 14.0005
R163 avdd.n48 avdd.n12 14.0005
R164 avdd.n48 avdd.n3 14.0005
R165 avdd.n123 avdd.n3 14.0005
R166 avdd.n88 avdd.n76 14.0005
R167 avdd.n88 avdd.n72 14.0005
R168 avdd.n94 avdd.n72 14.0005
R169 avdd.n94 avdd.n64 14.0005
R170 avdd.n104 avdd.n64 14.0005
R171 avdd.n104 avdd.n60 14.0005
R172 avdd.n110 avdd.n60 14.0005
R173 avdd.n86 avdd.n78 14.0005
R174 avdd.n86 avdd.n70 14.0005
R175 avdd.n96 avdd.n70 14.0005
R176 avdd.n96 avdd.n66 14.0005
R177 avdd.n102 avdd.n66 14.0005
R178 avdd.n102 avdd.n57 14.0005
R179 avdd.n113 avdd.n57 14.0005
R180 avdd.n120 avdd.n119 6.3005
R181 avdd.n121 avdd.n120 6.3005
R182 avdd.n7 avdd.n6 6.3005
R183 avdd.n6 avdd.n5 6.3005
R184 avdd.n51 avdd.n50 6.3005
R185 avdd.n50 avdd.n49 6.3005
R186 avdd.n10 avdd.n9 6.3005
R187 avdd.n11 avdd.n10 6.3005
R188 avdd.n40 avdd.n39 6.3005
R189 avdd.n41 avdd.n40 6.3005
R190 avdd.n19 avdd.n18 6.3005
R191 avdd.n18 avdd.n17 6.3005
R192 avdd.n35 avdd.n34 6.3005
R193 avdd.n34 avdd.n33 6.3005
R194 avdd.n22 avdd.n21 6.3005
R195 avdd.n25 avdd.n24 6.3005
R196 avdd.n24 avdd.n23 6.3005
R197 avdd.n32 avdd.n31 6.3005
R198 avdd.n33 avdd.n32 6.3005
R199 avdd.n16 avdd.n15 6.3005
R200 avdd.n17 avdd.n16 6.3005
R201 avdd.n43 avdd.n42 6.3005
R202 avdd.n42 avdd.n41 6.3005
R203 avdd.n13 avdd.n12 6.3005
R204 avdd.n12 avdd.n11 6.3005
R205 avdd.n48 avdd.n47 6.3005
R206 avdd.n49 avdd.n48 6.3005
R207 avdd.n3 avdd.n2 6.3005
R208 avdd.n5 avdd.n3 6.3005
R209 avdd.n124 avdd.n123 6.3005
R210 avdd.n110 avdd.n109 6.3005
R211 avdd.n111 avdd.n110 6.3005
R212 avdd.n61 avdd.n60 6.3005
R213 avdd.n60 avdd.n59 6.3005
R214 avdd.n105 avdd.n104 6.3005
R215 avdd.n104 avdd.n103 6.3005
R216 avdd.n64 avdd.n63 6.3005
R217 avdd.n65 avdd.n64 6.3005
R218 avdd.n94 avdd.n93 6.3005
R219 avdd.n95 avdd.n94 6.3005
R220 avdd.n73 avdd.n72 6.3005
R221 avdd.n72 avdd.n71 6.3005
R222 avdd.n89 avdd.n88 6.3005
R223 avdd.n88 avdd.n87 6.3005
R224 avdd.n76 avdd.n75 6.3005
R225 avdd.n114 avdd.n113 6.3005
R226 avdd.n57 avdd.n56 6.3005
R227 avdd.n59 avdd.n57 6.3005
R228 avdd.n102 avdd.n101 6.3005
R229 avdd.n103 avdd.n102 6.3005
R230 avdd.n67 avdd.n66 6.3005
R231 avdd.n66 avdd.n65 6.3005
R232 avdd.n97 avdd.n96 6.3005
R233 avdd.n96 avdd.n95 6.3005
R234 avdd.n70 avdd.n69 6.3005
R235 avdd.n71 avdd.n70 6.3005
R236 avdd.n86 avdd.n85 6.3005
R237 avdd.n87 avdd.n86 6.3005
R238 avdd.n79 avdd.n78 6.3005
R239 avdd.n78 avdd.n77 6.3005
R240 avdd.n29 avdd.n28 5.16141
R241 avdd.n28 avdd.n20 5.16141
R242 avdd.n83 avdd.n82 5.16141
R243 avdd.n82 avdd.n74 5.16141
R244 avdd.n108 avdd.n54 5.16141
R245 avdd.n26 avdd.n23 4.81843
R246 avdd.n122 avdd.n121 4.81843
R247 avdd.n80 avdd.n77 4.81843
R248 avdd.n112 avdd.n111 4.81843
R249 avdd.n126 avdd.n125 4.7075
R250 avdd.n118 avdd.n117 4.7075
R251 avdd.n116 avdd.n115 4.7075
R252 avdd.n29 avdd.n25 4.5005
R253 avdd.n31 avdd.n30 4.5005
R254 avdd.n15 avdd.n14 4.5005
R255 avdd.n44 avdd.n43 4.5005
R256 avdd.n45 avdd.n13 4.5005
R257 avdd.n47 avdd.n46 4.5005
R258 avdd.n2 avdd.n1 4.5005
R259 avdd.n125 avdd.n124 4.5005
R260 avdd.n36 avdd.n35 4.5005
R261 avdd.n37 avdd.n19 4.5005
R262 avdd.n39 avdd.n38 4.5005
R263 avdd.n9 avdd.n8 4.5005
R264 avdd.n52 avdd.n51 4.5005
R265 avdd.n53 avdd.n7 4.5005
R266 avdd.n119 avdd.n118 4.5005
R267 avdd.n21 avdd.n20 4.5005
R268 avdd.n85 avdd.n84 4.5005
R269 avdd.n69 avdd.n68 4.5005
R270 avdd.n98 avdd.n97 4.5005
R271 avdd.n99 avdd.n67 4.5005
R272 avdd.n101 avdd.n100 4.5005
R273 avdd.n56 avdd.n55 4.5005
R274 avdd.n115 avdd.n114 4.5005
R275 avdd.n83 avdd.n79 4.5005
R276 avdd.n90 avdd.n89 4.5005
R277 avdd.n91 avdd.n73 4.5005
R278 avdd.n93 avdd.n92 4.5005
R279 avdd.n63 avdd.n62 4.5005
R280 avdd.n106 avdd.n105 4.5005
R281 avdd.n107 avdd.n61 4.5005
R282 avdd.n109 avdd.n108 4.5005
R283 avdd.n75 avdd.n74 4.5005
R284 avdd.n123 avdd.n122 1.33893
R285 avdd.n26 avdd.n22 1.33893
R286 avdd.n113 avdd.n112 1.33893
R287 avdd.n80 avdd.n76 1.33893
R288 avdd.n28 avdd.n27 0.9005
R289 avdd.n82 avdd.n81 0.9005
R290 avdd.n58 avdd.n54 0.9005
R291 avdd.n4 avdd.n0 0.9005
R292 avdd.n116 avdd.n54 0.454413
R293 avdd.n117 avdd.n0 0.454413
R294 avdd.n126 avdd.n0 0.454413
R295 avdd.n117 avdd.n116 0.427022
R296 avdd.n35 avdd.n21 0.1445
R297 avdd.n35 avdd.n19 0.1445
R298 avdd.n39 avdd.n19 0.1445
R299 avdd.n39 avdd.n9 0.1445
R300 avdd.n51 avdd.n9 0.1445
R301 avdd.n51 avdd.n7 0.1445
R302 avdd.n119 avdd.n7 0.1445
R303 avdd.n31 avdd.n25 0.1445
R304 avdd.n31 avdd.n15 0.1445
R305 avdd.n43 avdd.n15 0.1445
R306 avdd.n43 avdd.n13 0.1445
R307 avdd.n47 avdd.n13 0.1445
R308 avdd.n47 avdd.n2 0.1445
R309 avdd.n124 avdd.n2 0.1445
R310 avdd.n30 avdd.n29 0.1445
R311 avdd.n30 avdd.n14 0.1445
R312 avdd.n44 avdd.n14 0.1445
R313 avdd.n45 avdd.n44 0.1445
R314 avdd.n46 avdd.n45 0.1445
R315 avdd.n46 avdd.n1 0.1445
R316 avdd.n125 avdd.n1 0.1445
R317 avdd.n36 avdd.n20 0.1445
R318 avdd.n37 avdd.n36 0.1445
R319 avdd.n38 avdd.n37 0.1445
R320 avdd.n38 avdd.n8 0.1445
R321 avdd.n52 avdd.n8 0.1445
R322 avdd.n53 avdd.n52 0.1445
R323 avdd.n118 avdd.n53 0.1445
R324 avdd.n89 avdd.n75 0.1445
R325 avdd.n89 avdd.n73 0.1445
R326 avdd.n93 avdd.n73 0.1445
R327 avdd.n93 avdd.n63 0.1445
R328 avdd.n105 avdd.n63 0.1445
R329 avdd.n105 avdd.n61 0.1445
R330 avdd.n109 avdd.n61 0.1445
R331 avdd.n85 avdd.n79 0.1445
R332 avdd.n85 avdd.n69 0.1445
R333 avdd.n97 avdd.n69 0.1445
R334 avdd.n97 avdd.n67 0.1445
R335 avdd.n101 avdd.n67 0.1445
R336 avdd.n101 avdd.n56 0.1445
R337 avdd.n114 avdd.n56 0.1445
R338 avdd.n84 avdd.n83 0.1445
R339 avdd.n84 avdd.n68 0.1445
R340 avdd.n98 avdd.n68 0.1445
R341 avdd.n99 avdd.n98 0.1445
R342 avdd.n100 avdd.n99 0.1445
R343 avdd.n100 avdd.n55 0.1445
R344 avdd.n115 avdd.n55 0.1445
R345 avdd.n90 avdd.n74 0.1445
R346 avdd.n91 avdd.n90 0.1445
R347 avdd.n92 avdd.n91 0.1445
R348 avdd.n92 avdd.n62 0.1445
R349 avdd.n106 avdd.n62 0.1445
R350 avdd.n107 avdd.n106 0.1445
R351 avdd.n108 avdd.n107 0.1445
R352 ifwd ifwd.n1 14.5893
R353 ifwd ifwd.n0 6.09231
C0 M0_0/a_500_n131# ifwd 0.03808f
C1 M0_0/a_500_n131# i_SUM 0.35509f
C2 M0_0/a_500_n131# avdd 0.8711f
C3 ifwd i_SUM 0.01909f
C4 avdd ifwd 0.44131f
C5 avdd i_SUM 0.06362f
C6 i_SUM avss 0.1038f
C7 ifwd.n0 avss 0.18025f
C8 ifwd.n1 avss 0.02196f
C9 avdd.n0 avss 0.00127f
C10 avdd.n1 avss 0
C11 avdd.n2 avss 0
C12 avdd.n3 avss 0
C13 avdd.n4 avss 0.00843f
C14 avdd.n5 avss 0.00534f
C15 avdd.n6 avss 0
C16 avdd.n7 avss 0
C17 avdd.n8 avss 0
C18 avdd.n9 avss 0
C19 avdd.n10 avss 0
C20 avdd.n11 avss 0.00534f
C21 avdd.n12 avss 0
C22 avdd.n13 avss 0
C23 avdd.n14 avss 0
C24 avdd.n15 avss 0
C25 avdd.n16 avss 0
C26 avdd.n17 avss 0.00534f
C27 avdd.n18 avss 0
C28 avdd.n19 avss 0
C29 avdd.n20 avss 0.00112f
C30 avdd.n21 avss 0
C31 avdd.n22 avss 0
C32 avdd.n23 avss 0.00661f
C33 avdd.n24 avss 0
C34 avdd.n25 avss 0
C35 avdd.n27 avss 0.00843f
C36 avdd.n28 avss 0.00279f
C37 avdd.n29 avss 0.00112f
C38 avdd.n30 avss 0
C39 avdd.n31 avss 0
C40 avdd.n32 avss 0
C41 avdd.n33 avss 0.00534f
C42 avdd.n34 avss 0
C43 avdd.n35 avss 0
C44 avdd.n36 avss 0
C45 avdd.n37 avss 0
C46 avdd.n38 avss 0
C47 avdd.n39 avss 0
C48 avdd.n40 avss 0
C49 avdd.n41 avss 0.00534f
C50 avdd.n42 avss 0
C51 avdd.n43 avss 0
C52 avdd.n44 avss 0
C53 avdd.n45 avss 0
C54 avdd.n46 avss 0
C55 avdd.n47 avss 0
C56 avdd.n48 avss 0
C57 avdd.n49 avss 0.00534f
C58 avdd.n50 avss 0
C59 avdd.n51 avss 0
C60 avdd.n52 avss 0
C61 avdd.n53 avss 0
C62 avdd.n54 avss 0.00203f
C63 avdd.n55 avss 0
C64 avdd.n56 avss 0
C65 avdd.n57 avss 0
C66 avdd.n58 avss 0.00843f
C67 avdd.n59 avss 0.00534f
C68 avdd.n60 avss 0
C69 avdd.n61 avss 0
C70 avdd.n62 avss 0
C71 avdd.n63 avss 0
C72 avdd.n64 avss 0
C73 avdd.n65 avss 0.00534f
C74 avdd.n66 avss 0
C75 avdd.n67 avss 0
C76 avdd.n68 avss 0
C77 avdd.n69 avss 0
C78 avdd.n70 avss 0
C79 avdd.n71 avss 0.00534f
C80 avdd.n72 avss 0
C81 avdd.n73 avss 0
C82 avdd.n74 avss 0.00112f
C83 avdd.n75 avss 0
C84 avdd.n76 avss 0
C85 avdd.n77 avss 0.00661f
C86 avdd.n78 avss 0
C87 avdd.n79 avss 0
C88 avdd.n81 avss 0.00843f
C89 avdd.n82 avss 0.00279f
C90 avdd.n83 avss 0.00112f
C91 avdd.n84 avss 0
C92 avdd.n85 avss 0
C93 avdd.n86 avss 0
C94 avdd.n87 avss 0.00534f
C95 avdd.n88 avss 0
C96 avdd.n89 avss 0
C97 avdd.n90 avss 0
C98 avdd.n91 avss 0
C99 avdd.n92 avss 0
C100 avdd.n93 avss 0
C101 avdd.n94 avss 0
C102 avdd.n95 avss 0.00534f
C103 avdd.n96 avss 0
C104 avdd.n97 avss 0
C105 avdd.n98 avss 0
C106 avdd.n99 avss 0
C107 avdd.n100 avss 0
C108 avdd.n101 avss 0
C109 avdd.n102 avss 0
C110 avdd.n103 avss 0.00534f
C111 avdd.n104 avss 0
C112 avdd.n105 avss 0
C113 avdd.n106 avss 0
C114 avdd.n107 avss 0
C115 avdd.n108 avss 0.00112f
C116 avdd.n109 avss 0
C117 avdd.n110 avss 0
C118 avdd.n111 avss 0.00661f
C119 avdd.n113 avss 0
C120 avdd.n114 avss 0
C121 avdd.n115 avss 0.00105f
C122 avdd.n116 avss 0.0013f
C123 avdd.n117 avss 0.0013f
C124 avdd.n118 avss 0.00105f
C125 avdd.n119 avss 0
C126 avdd.n120 avss 0
C127 avdd.n121 avss 0.00661f
C128 avdd.n123 avss 0
C129 avdd.n124 avss 0
C130 avdd.n125 avss 0.00105f
C131 avdd.n126 avss 0.02285f
C132 avss.n0 avss 0
C133 avss.n1 avss 0
C134 avss.n2 avss 0
C135 avss.n3 avss 0
C136 avss.n4 avss 0
C137 avss.n5 avss 0.00792f
C138 avss.n6 avss 0
C139 avss.n7 avss 0.00615f
C140 avss.n8 avss 0.0074f
C141 avss.n9 avss 0
C142 avss.n10 avss 0
C143 avss.n11 avss 0
C144 avss.n12 avss 0
C145 avss.n13 avss 0
C146 avss.n14 avss 0
C147 avss.n15 avss 0
C148 avss.n16 avss 0
C149 avss.n17 avss 0
C150 avss.n18 avss 0.00792f
C151 avss.n19 avss 0
C152 avss.n20 avss 0
C153 avss.n21 avss 0
C154 avss.n22 avss 0
C155 avss.n23 avss 0
C156 avss.n24 avss 0
C157 avss.n25 avss 0
C158 avss.n26 avss 0
C159 avss.n27 avss 0
C160 avss.n28 avss 0
C161 avss.n29 avss 0
C162 avss.n30 avss 0.00631f
C163 avss.n31 avss 0
C164 avss.n32 avss 0.00792f
C165 avss.n33 avss 0.00792f
C166 avss.n34 avss 0
C167 avss.n35 avss 0
C168 avss.n36 avss 0
C169 avss.n37 avss 0
C170 avss.n38 avss 0
C171 avss.n39 avss 0
C172 avss.n40 avss 0
C173 avss.n41 avss 0
C174 avss.n42 avss 0
C175 avss.n43 avss 0
C176 avss.n44 avss 0.00792f
C177 avss.n45 avss 0
C178 avss.n46 avss 0
C179 avss.n47 avss 0.00156f
C180 avss.n48 avss 0.00421f
C181 avss.n49 avss 0
C182 avss.n50 avss 0
C183 avss.n51 avss 0.00317f
C184 avss.n52 avss 0
C185 avss.n53 avss 0
C186 avss.n54 avss 0
C187 avss.n55 avss 0
C188 avss.n56 avss 0
C189 avss.n57 avss 0
C190 avss.n58 avss 0
C191 avss.n59 avss 0
C192 avss.n60 avss 0
C193 avss.n61 avss 0
C194 avss.n62 avss 0
C195 avss.n63 avss 0
C196 avss.n64 avss 0
C197 avss.n65 avss 0
C198 avss.n66 avss 0.27743f
C199 avss.n67 avss 0.37124f
C200 avss.n68 avss 0.21749f
C201 avss.n69 avss 0.00975f
C202 avss.n70 avss 0
C203 avss.n71 avss 0
C204 avss.n72 avss 0
C205 avss.n73 avss 0.00366f
C206 ifwd avss -0.21311f
C207 avdd avss -14.9294f
C208 M0_0/a_500_n131# avss -0.74575f
.ends

